data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5127,5822,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([NH+:20]=[C:21]([CH3:22])[CH3:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:20][C:21]2([CH3:22])[CH3:23],water,298.15,17.660943303028557,-3.5178040876299805
1836,2035,[CH3:13][O:14][C:15](=[O:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N+:24]([CH3:25])=[CH:26][C:27]([CH3:28])=[O:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:24]([CH3:25])[CH:26]2[C:27]([CH3:28])=[O:29],water,298.15,35.57592660619585,-27.893847121361283
2700,3000,[CH3:19][O:20][C:21](=[O:22])[c-:23]1[nH+:24][c:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[o:32][c:33]1=[O:34].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]1([C:21]([O:20][CH3:19])=[O:22])[NH:24][C:25]2([c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[O:32][C:33]1=[O:34],water,298.15,30.38173239130661,-2.801389892228433
5001,5689,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]([C:19]([CH3:20])=[O:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[C:26]#[N:27]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:24]([CH3:25])([C:26]#[N:27])[N:22]([CH3:23])[C:18]2([C:16]([CH3:15])=[O:17])[C:19]([CH3:20])=[O:21],water,298.15,34.29125402187193,6.785652062038873
263,287,[CH3:14][C:15]([C:16]#[N:17])=[O+:18][O-:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:15]([CH3:14])([C:16]#[N:17])[O:18][O:19]3,water,298.15,14.15429401567281,-45.30045235127164
4313,4933,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[O+:12]=[C:13]([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10]#[N:11])[O:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,11.142834054507112,-46.82480015303953
303,329,[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][C:10](=[O:11])[N:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[N:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[NH:13][N:12]3[C:10]([CH3:9])=[O:11],water,298.15,24.294528222894645,-27.44770667070777
972,1056,[CH3:13][CH-:14][O+:15]=[C:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][NH:2][C:3](=[O:4])/[C:5]([F:6])=[C:7](/[F:8])[C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([F:6])[C@@:7]([F:8])([C:9](=[O:10])[NH:11][CH3:12])[CH:14]([CH3:13])[O:15][C:16]1([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,16.161770290610605,-37.46003469939049
3091,3478,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([C:12]#[N:13])[N+:14]#[N:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[N:14]=[N:15]1,water,298.15,31.47434224983588,-5.561768708198403
2854,3172,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[Cl:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[Cl:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:18][C:19]2([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,13.885645452195805,-45.33086019354696
3695,4217,[CH3:6][O:7][C:8](=[O:9])[C-:10]([CH3:11])[O+:12]=[CH:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[O:12][C:10]1([C:8]([O:7][CH3:6])=[O:9])[CH3:11],water,298.15,35.72951605527207,-4.166650585690587
